US07759349B2
Preparation of 2-[4-(2-Methoxyethoxy)phenyl]-6-propylsulfanyl-imidazo[1,2-b]pyridazine (Compound 65)
A solution of 6-propylsulfanylpyridazin-3-amine (169 mg, 1 mmol) and 2-bromo-1-[4-(2-methoxyethoxy)phenyl]ethanone (273 mg, 1 mmol) in ethanol (10 mL) was refluxed for 3 h. Sodium hydrogen carbonate (84 mg, 1 mmol) was then added and the mixture was refluxed for a further 3 h. The solvent was evaporated and the organic residue was extracted with chloroform. The chloroform extract was washed with water, dried (sodium sulfate) and evaporated. The residue was purified by radial chromatography on silica gel. Elution with 2-3% methanol in dichloromethane afforded Compound 65 (57 mg). 1H n.m.r. (CDCl3) δ 1.12, t, J=6 Hz, 3H; 1.75-1.95, m, 2H; 3.16-3.22, m, 2H; 3.27, s, 3H; 3.75-3.82, m, 2H; 4.15-4.22, m, 2H; 6.88-7.08, m, 3H; 7.80-7.995, m, 3H; 8.06, s, 1H.

reactant | 6-propylsulfanylpyridazin-3-amine | 1 mmol, 169 mg | C(CC)SC1=CC=C(N=N1)N | C7H11N3S
reactant | 2-bromo-1-[4-(2-methoxyethoxy)phenyl]ethanone | 1 mmol, 273 mg | BrCC(=O)C1=CC=C(C=C1)OCCOC | C11H13BrO3
reactant | Sodium hydrogen carbonate | 1 mmol, 84 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[4-(2-Methoxyethoxy)phenyl]-6-propylsulfanyl-imidazo[1,2-b]pyridazine | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)SCCC)C1 | C18H21N3O2S
